US08455703B2
Synthesis of N-methyl-N-octylmorpholinium tetracyanoborate as Illustrated in FIG. 11
Analogously to Example A, 58 g of potassium tetracyanoborate are added to 100 g of 4-methyl-4-octylmorpholinium bromide, and the mixture is subjected to corresponding work-up, giving a clear, yellowish, viscous liquid.

reactant | potassium tetracyanoborate | 58 g | C(#N)[B-](C#N)(C#N)C#N.[K+]
reactant | 4-methyl-4-octylmorpholinium bromide | 100 g | [Br-].C[N+]1(CCOCC1)CCCCCCCC
product | N-methyl-N-octylmorpholinium tetracyanoborate | C(#N)[B-](C#N)(C#N)C#N.C[N+]1(CCOCC1)CCCCCCCC | InChI=1S/C13H28NO.C4BN4/c1-3-4-5-6-7-8-9-14(2)10-12-15-13-11-14;6-1-5(2-7,3-8)4-9/h3-13H2,1-2H3;/q+1;-1
